US06002008
4-(4-Chloro-2-fluoro-5-hydroxy-phenylamino)-7-(3-dimethylamino-propoxy)-6-methoxy-quinoline-3-carbonitrile
A mixture of 0.8 g (1.83 mmol) of 4-(4-chloro-2-fluoro-5-hydroxy-phenylamino)-7-(3-chloro-propoxy)-6-methoxy-quinoline-3-carbonitrile and 0.055 g of sodium iodide in 15.6 ml of 2M dimethylamine in tetrahydrofuran was placed in a sealed tube and heated to 125° C. for 2.5 hr. The solvent was removed and the residue was mixed with warm ethyl acetate and saturated sodium bicarbonate solution. The organic layer was separated and dried over magnesium sulfate. Solvent was removed and the residue was treated with with ethyl acetate-ether depositing a solid and giving 0.51 g of the title compound as a off-white solid: mass spectrum (electrospray, m/e) M+H 445.0; (M+2H)+2 243.4.

reactant | 4-(4-chloro-2-fluoro-5-hydroxy-phenylamino)-7-(3-chloro-propoxy)-6-methoxy-quinoline-3-carbonitrile | 1.83 mmol, 0.8 g | ClC1=CC(=C(C=C1O)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCCl)C#N)F | C20H16Cl2FN3O3
reactant | sodium iodide | 0.055 g | [I-].[Na+]
reactant | dimethylamine | 2M, 15.6 ml | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-Chloro-2-fluoro-5-hydroxy-phenylamino)-7-(3-dimethylamino-propoxy)-6-methoxy-quinoline-3-carbonitrile | 0.51 g | ClC1=CC(=C(C=C1O)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN(C)C)C#N)F | C22H22ClFN4O3
